* C:\Users\dkupe\OneDrive\Documents\gitRepo\5V_Buck\5V0to3V3\Simulation\LTM4644-1.asc
V1 IN 0 10
R1 IN N002 150K
R2 N002 0 100K
C1 OUT1 0 47µ x2 V=6.3 Irms=0 Rser=0.002 Lser=0 mfg="TDK" pn="C4532X5ROJ47@M" type="X5R"
Rload1 OUT1 0 .825
C2 N003 0 .001µ
C4 N004 0 .001µ
Rload3 OUT2 0 .375
C6 N006 0 .001µ
C8 N007 0 .001µ
C5 OUT2 0 47µ x2 V=6.3 Irms=0 Rser=0.002 Lser=0 mfg="TDK" pn="C4532X5ROJ47@M" type="X5R"
XU1 NC_01 IN 0 N001 N003 NC_02 N002 NC_03 OUT1 0 NC_04 0 IN IN IN IN IN NC_05 N002 N001 NC_06 N004 NC_07 NC_08 OUT1 N002 0 N005 N006 NC_09 NC_10 OUT2 0 IN IN NC_11 N002 N005 N007 NC_12 NC_13 OUT2 0 NC_14 LTM4644-1
R9 OUT2 N005 60.4K
R12 N001 0 13.3K
R13 OUT1 N001 60.4K
C7 OUT1 0 22µ x2 V=6.3 Irms=0 Rser=1.074m Lser=0.85n
R3 N005 0 13.3K
C3 OUT2 0 22µ x2 V=6.3 Irms=0 Rser=1.074m Lser=0.85n
.tran .3m startup
.lib LTM4644-1.sub
.backanno
.end
